US06579872B1
A solution of 3-methoxy-4-benzyloxybenzoyl chloride (3.01 g) in methylene chloride (50 ml) was added to a stirred suspension of N-(3-amino-4-methylphenyl)-3-dimethylaminobenzamide (2.69 g) in methylene chloride (30 ml) and the reaction mixture was stirred at ambient temperature for 16 hours. The organic phase was washed with water and with a saturated aqueous sodium bicarbonate solution, dried and evaporated. The solid residue was stirred in diethyl ether for 16 hours, filtered and dried to give N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-methoxy-4-benzyloxybenzamide (0.458 g); NMR: (DMSOd6) 2.18 (s, 3H), 2.96 (s, 6H), 3.82 (s, 3H), 5.12 (s, 2H), 6.9 (m, 1H), 7.16 (t, 1H), 7.21 (d, 2H), 7.3 (t, 2H), 7.4 (m, 5H), 7.57 (m, 3H), 7.78 (d, 1H), 9.75 (s, 1H), 10.18 (s, 1H).

reactant | 3-methoxy-4-benzyloxybenzoyl chloride | 3.01 g | COC=1C=C(C(=O)Cl)C=CC1OCC1=CC=CC=C1 | C15H13ClO3
reactant | N-(3-amino-4-methylphenyl)-3-dimethylaminobenzamide | 2.69 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N(C)C)=O | C16H19N3O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-methoxy-4-benzyloxybenzamide | 0.458 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OCC2=CC=CC=C2)OC)=O)C)C=CC1)C | C31H31N3O4
